US04889553
N-(2,6-dichlorophenyl)-5-ethyl-1-phenyl-1,2,4-triazole-3-sulphonamide (Compound E1)
5-Ethyl-1-phenyl-1,2,4-triazole-3-sulphonyl chloride (2.7 g), prepared by a method analogous to that of Example A, was added to a stirred solution of 2,6-dichloroaniline (1.8 g), and 4-dimethylaminopyridine (0.1 g) in dry pyridine (15 ml). After 48 hours at 25° C. most of the pyridine was removed in vacuo, and the residue was dissolved in dichloromethane. The solution was extracted with dilute hydrochloric acid and then re-evaporated. The residue was treated with 4M sodium hydroxide solution (25 ml) at 80° C. for 1 hour and then filtered. The filtered solid was washed with warm water, the filtrate was acidified with concentrated hydrochloric acid, and the product was recrystallised from ethanol to give 1.2 g of desired product, mp 185°-187° C.

reactant | 5-Ethyl-1-phenyl-1,2,4-triazole-3-sulphonyl chloride | 2.7 g | C(C)C1=NC(=NN1C1=CC=CC=C1)S(=O)(=O)Cl | C10H10ClN3O2S
reactant | 2,6-dichloroaniline | 1.8 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
catalyst | 4-dimethylaminopyridine | 0.1 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | pyridine | 15 ml | N1=CC=CC=C1 | C5H5N
product | N-(2,6-dichlorophenyl)-5-ethyl-1-phenyl-1,2,4-triazole-3-sulphonamide | 1.2 g | ClC1=C(C(=CC=C1)Cl)NS(=O)(=O)C1=NN(C(=N1)CC)C1=CC=CC=C1 | C16H14Cl2N4O2S
